US07829560B2
3-Fluoro-N-[4-(2-morpholin-4-ylethoxy)-1-naphthyl]-5-piperidin-1-ylbenzamide (Compound B66).
Compound is prepared from [4-(2-morpholin-4-ylethoxy)-1-naphthyl]amine (0.11 g, 0.40 mmol) and 3-fluoro-5-piperidin-1-ylbenzoic acid (0.10 g, 0.40 mmol) according to conditions described in general procedures E and F. A light pink solid is produced (67 mg). Mp: 150-151° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.60 (bs, 6 H), 2.49-2.57 (m, 4H), 2.89 (bs, 2H), 3.30 (bs, 4H), 3.61 (bs, 4H), 4.32 (bs, 2H), 3.96 (d, J=12.6 Hz, 1H), 7.03 (d, J=8.4 Hz, 1H), 7.15 (d, J=9.3 Hz, 1H), 7.40-7.45 (m, 2H), 7.54-7.57 (m, 2H), 7.83-7.87 (m, 1H), 8.23 (s, 1H), 10.24 (s, 1H); MS 478 (M+1).

reactant | [4-(2-morpholin-4-ylethoxy)-1-naphthyl]amine | 0.40 mmol, 0.11 g | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
reactant | 3-fluoro-5-piperidin-1-ylbenzoic acid | 0.40 mmol, 0.10 g | FC=1C=C(C(=O)O)C=C(C1)N1CCCCC1 | C12H14FNO2
product | 3-Fluoro-N-[4-(2-morpholin-4-ylethoxy)-1-naphthyl]-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C(C1)N1CCCCC1 | C28H32FN3O3
